US04093726
1-methyl 4(2-benzimidazolyl) piperazine
2-chlorobenzimidazole (5.0 g) and piperazine (8.0 g) were dissolved in 10 ml isopropyl alcohol and reflexed 6.5 hours. The solution was concentrated in vacuo. The residue treated with sodium carbonate and then extracted with chloroform to yield 5.55 g product. mp. 222°-224° C.

reactant | 2-chlorobenzimidazole | 5.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | piperazine | 8.0 g | N1CCNCC1 | C4H10N2
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | 1-methyl 4(2-benzimidazolyl) piperazine | 5.55 g | CN1CCN(CC1)C=1NC2=C(N1)C=CC=C2 | C12H16N4
